US07226923B2
N-{4-[4-(5-Methyl-1H-pyrazol-3-ylamino)-1-oxo-1H-phthalazin-2-yl]-phenyl}-acetamide
2-(4-Amino-phenyl)-4-(5-methyl-1H-pyrazol-3-ylamino)-2H-phthalazin-1-one (C-2, 0.050 g, 0.15 mmol) was dissolved in pyridine (1 ml) at 0° C. Acetylchloride (0.024 ml, 0.33 mmol) was added and stirring was continued for 30 min at 0° C. before the mixture was allowed to warm to room temperature. The solvent was evaporated after 2 h stirring at room temperature. The residue was diluted in MeOH (1 ml) and treated with conc. NH3 (1 ml). The title compound was obtained after stirring at room temperature for 24 h and evaporation of the solvents in vacuum (0.016 g, 29%). 1H-NMR: (400 MHz, D6-DMSO) 11.93 (1H, s), 10.08 (1H, s), 9.26 (1H, s), 8.49 (1H, d), 8.36 (1H, d), 7.88–7.98 (2H, m), 7.61–7.69 (4H, m), 6.24 (1H, s), 2.19 (3H, s), 2.08 (3H, s); MS (API+)=375 (M+H)+.

reactant | 2-(4-Amino-phenyl)-4-(5-methyl-1H-pyrazol-3-ylamino)-2H-phthalazin-1-one | 0.15 mmol, 0.050 g | NC1=CC=C(C=C1)N1C(C2=CC=CC=C2C(=N1)NC1=NNC(=C1)C)=O | C18H16N6O
reactant | Acetylchloride | 0.33 mmol, 0.024 ml | C(C)(=O)Cl | C2H3ClO
solvent | pyridine | 1 ml | N1=CC=CC=C1 | C5H5N
product | N-{4-[4-(5-Methyl-1H-pyrazol-3-ylamino)-1-oxo-1H-phthalazin-2-yl]-phenyl}-acetamide | CC1=CC(=NN1)NC1=NN(C(C2=CC=CC=C12)=O)C1=CC=C(C=C1)NC(C)=O | C20H18N6O2
